US04075342
2-(3-Hydroxyphenyl)imidazo[2,1-a]isoquinoline
2-(3-Methoxyphenyl)imidazo[2,1-a]isoquinoline (11 g.) is refluxed for four hours in a mixture of 100 ml. of acetic acid and 100 ml. of 48 percent hydrobromic acid. The reaction mixture is evaporated to dryness and the residue is taken up with 200 ml. of water and 20 ml. of 30 percent sodium hydroxide. After filtration, the filtered solution is extracted with dichloromethane and the aqueous phase is neutralized with dilute hydrochloric acid. The resulting solid precipitate is collected by filtration and crystallized from dichloromethane. Yield 9 g. of the title product which melts at 201°-2° C.

reactant | 2-(3-Methoxyphenyl)imidazo[2,1-a]isoquinoline | 11 g | COC=1C=C(C=CC1)C=1N=C2N(C=CC3=CC=CC=C23)C1 | C18H14N2O
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(3-Hydroxyphenyl)imidazo[2,1-a]isoquinoline | OC=1C=C(C=CC1)C=1N=C2N(C=CC3=CC=CC=C23)C1 | C17H12N2O
